US07723337B2
Benzyl 4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)piperazine-1-carboxylate
A mixture of benzyl 1-piperazinecarboxylate (1.751 mL, 9.08 mmol) and 2-(tert-butyldimethylsilyloxy)acetaldehyde (1.209 mL, 9.99 mmol), in MeOH (5 mL) and dichloroethane (5 mL) was stirred for 20 minutes with 4 Å molecular sieves. The mixture was added to a solution of sodium triacetoxyborohydride (4.81 g, 22.70 mmol) in tetrahydrofuran (5 mL) and stirred overnight. The reaction mixture was added to sodium bicarbonate (100 mL) and extracted with CH2Cl2 (3×50 mL). The combined organic extracts were concentrated under reduced pressure, and the residue purified with silica chromatography (EtOAc/MeOH) to give 2.10 g, (61%) of a clear oil. 1H NMR: 7.34 (m, 5H), 5.05 (s, 2H), 3.67 (t, 2H), 3.36 (m, 4H), 2.40 (m, 6H), 0.84 (s, 9H), 0.02 (s, 6H).

reactant | benzyl 1-piperazinecarboxylate | 9.08 mmol, 1.751 mL | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | 2-(tert-butyldimethylsilyloxy)acetaldehyde | 9.99 mmol, 1.209 mL | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 22.70 mmol, 4.81 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Benzyl 4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)piperazine-1-carboxylate | 61% | [Si](C)(C)(C(C)(C)C)OCCN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H34N2O3Si
